US07253205B2
1,1-Dimethylethyl 4-(2-Hydroxyethyl)4-(hydroxymethyl)-1-piperidinecarboxylate
Diisobutylaluminium hydride (1.0M in dichloromethane, 3.60 mL, 3.60 mmol) was added over 10 minutes to a stirred, cooled (−78° C.) solution of 1,1-dimethylethyl 1-oxo-2-oxa-8-azaspiro[4.5]decane-8-carboxylate (Description 23, 400 mg, 1.57 mmol) in dichloromethane (4 mL) and the mixture stirred at −78° C. for 3 hours, then at 0° C. for 2 hours. Water (1.6 mL) was added very slowly at 0° C. and the mixture was warmed to room temperature and stirred overnight. The mixture was filtered through Hyflo™, washing with dichloromethane, and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with ethyl acetate, to give the title compound (255 mg, 63%). m/z (ES+) 260 (M+1).

reactant | Diisobutylaluminium hydride | 3.60 mmol, 1.0M, 3.60 mL | [H-].C(C(C)C)[Al+]CC(C)C
reactant | 1,1-dimethylethyl 1-oxo-2-oxa-8-azaspiro[4.5]decane-8-carboxylate | 1.57 mmol, 400 mg | O=C1OCCC12CCN(CC2)C(=O)OC(C)(C)C | C13H21NO4
reactant | Water | 1.6 mL | O | H2O
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | 1,1-Dimethylethyl 4-(2-Hydroxyethyl)4-(hydroxymethyl)-1-piperidinecarboxylate | 255 mg, 63% | OCCC1(CCN(CC1)C(=O)OC(C)(C)C)CO | C13H25NO4
